US07417047B2
Step e) Preparation of 4-{2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde
A 1:1 mixture of toluene and ethanol was sparged with nitrogen for 30 minutes. To the solvent was added 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde (1.10 g; 3.04 mmol), 2-fluoro-3-pyridineboronic acid (0.69 g; 4.9 mmol), sodium carbonate (1.03 g; 9.75 mmol), and tetrakis[triphenylphosphine]-palladium(0) (0.53 g; 0.46 mmol). This mixture was heated at reflux temperature for three hours. The solvents were evaporated and the residue was crystallized in CHCl3 and water to give the title as grey crystals, 0.91 g (74% yield),

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde | 3.04 mmol, 1.10 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)Br)C=1C=C(N(C1)CC)C=O)=O)C | C17H17BrN4O2
reactant | 2-fluoro-3-pyridineboronic acid | 4.9 mmol, 0.69 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 9.75 mmol, 1.03 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis[triphenylphosphine]-palladium(0) | 0.46 mmol, 0.53 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | ethanol | C(C)O | C2H6O
product | 4-{2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde | 74% yield | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CC)C=O)=O)C | C22H20FN5O2
